US09334269B2
To a solution of 1, 3-dibromobenzene (500 mg, 2.13 mmol) and 3-(4-fluorophenoxy)azetidine (357 mg, 2.13 mmol) in toluene (7 mL, 3 mmol) was added cesium carbonate (600 mg, 5.3 mmol) and degassed for 15 min. Pd2(dba)3 (97 mg, 0.106 mmol) and BINAP (66 mg, 0.106 mmol) were added and the mixture was heated in the microwave for 30 min at 100° C. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×30 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 1-(3-bromophenyl)-3-(4-fluorophenoxy)azetidine (200 mg, 30%) as a solid. Observed mass (M+1): 322.1.

reactant | 1, 3-dibromobenzene | 2.13 mmol, 500 mg | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 3-(4-fluorophenoxy)azetidine | 2.13 mmol, 357 mg | FC1=CC=C(OC2CNC2)C=C1 | C9H10FNO
reactant | toluene | 3 mmol, 7 mL | C1(=CC=CC=C1)C | C7H8
reactant | cesium carbonate | 5.3 mmol, 600 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.106 mmol, 66 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | Pd2(dba)3 | 0.106 mmol, 97 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(3-bromophenyl)-3-(4-fluorophenoxy)azetidine | 200 mg, 30% | BrC=1C=C(C=CC1)N1CC(C1)OC1=CC=C(C=C1)F | C15H13BrFNO
